US05863929
B) Preparation of 2-fluoroterephthalonitrile
A solution of 4-bromo-2-fluorobenzonitrile (20 g, 100 mmol), zinc cyanide (7 g, 60 mmol) and tetrakis(triphenylphosphine)palladium (4.6 g, 4 mmol) in DMF (100 mL) was heated at 80° C. for 4 hr. Toluene (300 mL) and saturated aqueous ammonium chloride (300 mL) were added and the layers were separated. The organic layer was washed once with saturated aqueous ammonium chloride and twice with brine. The organic phase was dried (MgSO4), filtered and concentrated. The product was purified by silica gel chromatography, eluting with a gradient of hexanes to 30% EtOAc/hexanes (11 g, 75%).

reactant | 4-bromo-2-fluorobenzonitrile | 100 mmol, 20 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | Toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 60 mmol, 7 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 4 mmol, 4.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoroterephthalonitrile | FC1=C(C#N)C=CC(=C1)C#N | C8H3FN2
